US05608056
To a solution of (2R,4S)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-(triphenylmethylthio) pyrrolidine (10.1 g) in pyridine (30 ml) was added triphenylphosphine at ambient temperature. The mixture was stirred at the same temperature for 1 hour, and then 28% aqueous ammonia was added. After stirring at ambient temperature overnight, the mixture was evaporated under reduced pressure, and co-evaporated with toluene. The residue was column chromatographed on silica gel (chloroform:methanol=9:1) to give (2R,4S)-1-allyloxycarbonyl-2-(2-aminoethyl)-4(triphenylmethylthio)pyrrolidine (9.0 g).

reactant | (2R,4S)-1-allyloxycarbonyl-2-(2-azidoethyl)-4-(triphenylmethylthio) pyrrolidine | 10.1 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN=[N+]=[N-] | C29H30N4O2S
reactant | triphenylphosphine | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | ammonia | N | H3N
solvent | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
product | (2R,4S)-1-allyloxycarbonyl-2-(2-aminoethyl)-4(triphenylmethylthio)pyrrolidine | 9.0 g | C(C=C)OC(=O)N1[C@@H](C[C@@H](C1)SC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)CCN | C29H32N2O2S
